US06730684B1
Preparation of 2-Bromo-N-methyl-N-[(1-methyl-1H-indol-2-yl)methyl]benzamide
EDC (660 mg, 3.44 mmole) was added to a solution of 2-bromobenzoic acid (693 mg, 3.45 mmole), 1-methyl-2-(methylaminomethyl)indole (600 mg, 3.45 mmole), and HOBt.H2O (466 mg, 3.45 mmole) in DMF at RT. The reaction was stirred overnight, then was concentrated in vacuo. The residue was diluted with 5% NaHCO3 and extracted with CH2Cl2. The combined organic extracts were washed with brine and dried over MgSO4. Flash chromatography on silica gel (2% MeOH/CH2Cl2) gave the title compound (750 mg, 63%): MS (ES) m/e 357 (M+H)+.

reactant | EDC | 3.44 mmole, 660 mg
reactant | 2-bromobenzoic acid | 3.45 mmole, 693 mg | BrC1=C(C(=O)O)C=CC=C1 | C7H5BrO2
reactant | 1-methyl-2-(methylaminomethyl)indole | 3.45 mmole, 600 mg | CN1C(=CC2=CC=CC=C12)CNC | C11H14N2
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 3.45 mmole, 466 mg | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Bromo-N-methyl-N-[(1-methyl-1H-indol-2-yl)methyl]benzamide | 750 mg, 63% | BrC1=C(C(=O)N(CC=2N(C3=CC=CC=C3C2)C)C)C=CC=C1 | C18H17BrN2O
